### PR TITLE
Adding finite-valid-trace-from-to lemmas

### PR DESCRIPTION
**Pull request by DafinaTrufas**

### CODE REVIEW

**Review by palmskog — APPROVED** [review]
Looks good, I assume @traiansf has already looked at this.

File: theories/VLSM/Core/VLSM.v [hunk 1]
```diff
@@ -2804,6 +2804,43 @@ Proof.
...
+  - by constructor.
+  - by constructor; [apply Ht.. |].
+Qed.
+
+Lemma finite_valid_trace_from_to_alt_right_impl
+  (s f : state X) (tr : list (transition_item X)) :
+  finite_valid_trace_from_to_alt s f tr -> finite_valid_trace_from_to X s f tr.
+Proof.
+  intros [Htr Hs].
+  revert s Hs Htr.
```
Comment (wkolowski) [inline theories/VLSM/Core/VLSM.v:2826]: You might want to merge these two bookkeeping steps.
